US04377580
A mixture of 4-amino-6-(2-ethylbutyramido)quinazoline (0.9 g) and diethyl ethoxymethylenepropanedioate (0.95 g) in N,N-dimethylformamide (4 ml) was stirred at 100° C. for 2 hours and 40 minutes. Water was added to the reaction mixture. The resulting crystals were collected, washed with water and dried. The crude crystals were chromatographed on silica gel with 20% ethyl acetate-chloroform and recrystallized from a mixture of ethyl acetate, chloroform and hexane to give crystalline diethyl [[6-(2-ethylbutyramido)-4-quinazolinylamino]methylene]propanedioate (1.1 g).

reactant | 4-amino-6-(2-ethylbutyramido)quinazoline | 0.9 g | NC1=NC=NC2=CC=C(C=C12)NC(C(CC)CC)=O | C14H18N4O
reactant | diethyl ethoxymethylenepropanedioate | 0.95 g | C(C)OC=C(C(=O)OCC)C(=O)OCC | C10H16O5
reactant | Water | O | H2O
solvent | N,N-dimethylformamide | 4 ml | CN(C=O)C | C3H7NO
product | diethyl [[6-(2-ethylbutyramido)-4-quinazolinylamino]methylene]propanedioate | 1.1 g | C(C)C(C(=O)NC=1C=C2C(=NC=NC2=CC1)NC=C(C(=O)OCC)C(=O)OCC)CC | C22H28N4O5
